US06184225B2
A mixture of ethyl 4-hydroxy-3-methoxybenzoate (9.8 g, 50mmol), 2-bromoethyl methyl ether (8.46 ml, 90 mmol) and potassium carbonate (12.42 g, 90 mmol) in acetone (60 ml) was heated at reflux for 30 hours. The mixture was allowed to cool and the solids removed by filtration. The volatiles were removed from the filtrate by evaporation and the residue triturated with hexane to give ethyl 3-methoxy-4-(2-methoxyethoxy)benzoate (11.3 g, 89%) as a white solid.

reactant | ethyl 4-hydroxy-3-methoxybenzoate | 50mmol, 9.8 g | OC1=C(C=C(C(=O)OCC)C=C1)OC | C10H12O4
reactant | 2-bromoethyl methyl ether | 90 mmol, 8.46 ml | COCCBr | C3H7BrO
reactant | potassium carbonate | 90 mmol, 12.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | ethyl 3-methoxy-4-(2-methoxyethoxy)benzoate | 11.3 g, 89% | COC=1C=C(C(=O)OCC)C=CC1OCCOC | C13H18O5
